US04064259
This example illustrates method for preparing the compounds of the present invention. In this example a mixture containing 12 g. (0.037 mole) of 1,2-epoxy-3-[5-(hex-5-enylaminocarbonyl)thiazol-2-yloxy]propane, 12 g. (0.164 mole) of t-butylamine and 20 ml. of ethanol is allowed to stand at room temperature for 12 hours. The mixture is then evaporated under vacuum to remove the ethanol solvent and the resulting residue dissolved in 50 ml. of ethyl acetate and cooled to -20° C, and maintained at this temperature for two hours. The mixture is then filtered and the resulting filter cake washed with cold (about 0° C) ethyl ether and then recrystallized from ethyl acetate affording 1-t-butylamino-3-[5-(hex-5-enylaminocarbonyl)thiazol-2-yloxy]propan-2-ol, m.p. 80°-81° C.

reactant | 1,2-epoxy-3-[5-(hex-5-enylaminocarbonyl)thiazol-2-yloxy]propane | 0.037 mole | O1CC1COC=1SC(=CN1)C(=O)NCCCCC=C | C13H18N2O3S
reactant | t-butylamine | 0.164 mole | C(C)(C)(C)N | C4H11N
solvent | ethanol | C(C)O | C2H6O
product | 1-t-butylamino-3-[5-(hex-5-enylaminocarbonyl)thiazol-2-yloxy]propan-2-ol | C(C)(C)(C)NCC(COC=1SC(=CN1)C(=O)NCCCCC=C)O | C17H29N3O3S
